US07598257B2
Step 2: 4-(2-Hydroxyethyl)cyclohexanone.
2-(1,4-Dioxaspiro[4.5]dec-8-yl)ethanol (2.70 g, 0.0145 mol) was dissolved in acetone (10.00 mL) and THF (10.00 mL) and 6.00 M HCl (6.00 mL) was added. The reaction was stirred at 25° C. for 16 hours, neutralized with NaHCO3 solution and was then extracted with ethyl acetate. The organic extracts were washed with water, and with saturated NaCl, then dried (MgSO4) and concentrated in vacuo. The crude product was used in the next reaction without further purification.

reactant | 2-(1,4-Dioxaspiro[4.5]dec-8-yl)ethanol | 0.0145 mol, 2.70 g | O1CCOC12CCC(CC2)CCO | C10H18O3
reactant | THF | 10.00 mL | C1CCOC1 | C4H8O
reactant | HCl | 6.00 M, 6.00 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 10.00 mL | CC(=O)C | C3H6O
product | 4-(2-Hydroxyethyl)cyclohexanone | OCCC1CCC(CC1)=O | C8H14O2
